US09193693B2
Step 1. Methyl 3-(cyclopropylamino)-2-phenylquinoxaline-6-carboxylate
Into a 20-mL sealed tube, was placed methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (200 mg, 0.67 mmol, 1.00 equiv), cyclopropanamine (10 mL), DMSO (1 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with H2O. The resulting solids were collected by filtration and applied onto a silica gel column with PE/EA (50:1). This resulted in 182.4 mg (83%) of methyl 3-(cyclopropylamino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.67 mmol, 200 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | cyclopropanamine | 10 mL | C1(CC1)N | C3H7N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | Methyl 3-(cyclopropylamino)-2-phenylquinoxaline-6-carboxylate | C1(CC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C19H17N3O2
